US06353010B1
4-Bromo-7-methoxy-2-trifluoromethylbenzimidazole
A solution of 7-methoxy-2-trifluoromethylbenzimidazole (50 g) in chloroform (100 ml) was cooled to 0° C., and N-bromosuccinimide (4.5 g) added. The mixture was stirred for 2 h. It was then washed with 5% aqueous sodium metabisulphite (50 ml), dried over magnesium sulphate, evaporated in vacuo and purified by flash chromatography eluting with 25% ethyl acetate in hexane to yield the title compound as a white solid (1.0 g).

reactant | 7-methoxy-2-trifluoromethylbenzimidazole | 50 g | COC1=CC=CC2=C1N=C(N2)C(F)(F)F | C9H7F3N2O
reactant | N-bromosuccinimide | 4.5 g | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 4-Bromo-7-methoxy-2-trifluoromethylbenzimidazole | 1.0 g | BrC1=CC=C(C=2N=C(NC21)C(F)(F)F)OC | C9H6BrF3N2O
